US04054719
Following the procedure of Example 1,5 grams of 2,4-dimethylphenacyl chloride are reacted with 5 grams of acetic acid to obtain 2,4-dimethylphenacyl acetate, m.p. 43°-45° C.

reactant | 2,4-dimethylphenacyl chloride | 1,5 grams | CC1=C(C(CCl)=O)C=CC(=C1)C | C10H11ClO
reactant | acetic acid | 5 grams | C(C)(=O)O | C2H4O2
product | 2,4-dimethylphenacyl acetate | C(C)(=O)OCC(=O)C1=C(C=C(C=C1)C)C | C12H14O3
